US06271249B1
Step A: 4-[(4-Methoxyphenyl)methyl]morpholine Intermediate
4-Methyoxybenzylchloride (25 g, 0.16 mol), morpholine (14 g, 0.16 mol), and potassium carbonate (22 g, 0.16 mol) were taken up in acetonitrile and Kl (8.7 g, 0.04 mol) added. The reaction mixture was heated at reflux for 18 h, filtered, and the filtrate concentrated and azeotropped with benzene to give 17.5 g (88%) as an oil; IR(film, υ=cm−1) 2956, 2806, 1514, 1246, 1118, 866; 1H NMR (300 MHz, DMSO-d6) δ 2.29 (4H, br. s), 3.35 (2H, s), 3.53 (4H, t, J=4.4 Hz), 3.71 (3H, s), 6.86 (2H, d, J=8.5 Hz), 7.19 (2H, d, J=8.5 Hz); MS(DCl)m/z: 208 (MH+).

reactant | 4-Methyoxybenzylchloride | 0.16 mol, 25 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | morpholine | 0.16 mol, 14 g | N1CCOCC1 | C4H9NO
reactant | potassium carbonate | 0.16 mol, 22 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-[(4-Methoxyphenyl)methyl]morpholine | COC1=CC=C(C=C1)CN1CCOCC1 | C12H17NO2
